US09334263B2
A solution of 4-(4-(5-benzylpyrimidin-2-yl)piperazin-1-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-yl)-1,3,5-triazin-2-amine (200 mg, 0.3 mmol), and p-TSA (40 mg, 0.2 mmol) in dichloroethane (2.5 mL) was stirred at 80° C. under N2 overnight. LCMS showed the reaction was completed. The reaction mixture was cooled to RT and diluted with ethyl acetate (40 mL). The organic phase was washed with water (30 mL) and brine (30 mL), dried over sodium sulfate, filtered and concentrated. The residue was purified by Prep-HPLC to give 3-(4-(4-(4-(5-benzylpyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)propane-1,2-diol (13.8 mg, yield 7%) as a white solid. MS (ES+) C24H28N10O2 requires: 488, found: 489 [M+H]+.

reactant | 4-(4-(5-benzylpyrimidin-2-yl)piperazin-1-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-yl)-1,3,5-triazin-2-amine | 0.3 mmol, 200 mg | C(C1=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)CC1OC(OC1)(C)C | C27H32N10O2
reactant | p-TSA | 0.2 mmol, 40 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dichloroethane | 2.5 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-(4-(4-(5-benzylpyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)propane-1,2-diol | 13.8 mg, yield 7% | C(C1=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)CC(CO)O | C24H28N10O2
